US06169107A
The reaction was carried out in a manner similar to Example 1 except for using 1.00 g (5.29 mmol) of methyl 1-methyl-3-indolecarboxylate, 5.05 g (52.9 mmol) of guanidine hydrochloride and 50 ml of a methanol solution of 2.85 g (52.9 mmol) of sodium methoxide. Thus 0.48 g (35.9%) of 1-methyl-3-indoloylguanidine hydrochloride was obtained.

reactant | methyl 1-methyl-3-indolecarboxylate | 5.29 mmol, 1.00 g | CN1C=C(C2=CC=CC=C12)C(=O)OC | C11H11NO2
reactant | guanidine hydrochloride | 52.9 mmol, 5.05 g | Cl.NC(=N)N
reactant | sodium methoxide | 52.9 mmol, 2.85 g | C[O-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
product | 1-methyl-3-indoloylguanidine hydrochloride | 0.48 g, 35.9% | Cl.CNC(=N)NC(=O)C=1NC2=CC=CC=C2C1 | InChI=1S/C11H12N4O.ClH/c1-13-11(12)15-10(16)9-6-7-4-2-3-5-8(7)14-9;/h2-6,14H,1H3,(H3,12,13,15,16);1H
